US07498337B2
5-(2-fluorophenyl)-4-iodo-1-(pyridin-3-ylsulfonyl)-1H-pyrrole-3-carbaldehyde
To a solution (42 mL) of 5-(2-fluorophenyl)-4-iodo-1H-pyrrole-3-carbaldehyde (400 mg) in tetrahydrofuran was added sodium hydride (60% in oil, 102 mg) at room temperature and the mixture was stirred for 30 min. 15-Crown-5 (560 mg) was added dropwise and the mixture was stirred for 30 min. Pyridin-3-ylsulfonyl chloride (340 mg) was added, and the mixture was further stirred for 1 hr. The reaction mixture was diluted with saturated brine and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=3:2→1:1) and crystallized from diisopropyl ether to give the title compound as colorless crystals (yield 540 mg, 93%).

reactant | 5-(2-fluorophenyl)-4-iodo-1H-pyrrole-3-carbaldehyde | 42 mL, 400 mg | FC1=C(C=CC=C1)C1=C(C(=CN1)C=O)I | C11H7FINO
reactant | sodium hydride | 102 mg | [H-].[Na+]
reactant | 15-Crown-5 | 560 mg | C1COCCOCCOCCOCCO1 | C10H20O5
reactant | Pyridin-3-ylsulfonyl chloride | 340 mg | N1=CC(=CC=C1)S(=O)(=O)Cl | C5H4ClNO2S
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
product | 5-(2-fluorophenyl)-4-iodo-1-(pyridin-3-ylsulfonyl)-1H-pyrrole-3-carbaldehyde | yield 540 mg, 93% | FC1=C(C=CC=C1)C1=C(C(=CN1S(=O)(=O)C=1C=NC=CC1)C=O)I | C16H10FIN2O3S
